US09216173B2
Dioxane (1.1 mL), phenylboronic acid (27 mg, 0.22 mmol), and potassium phosphate tribasic (70 mg, 0.33 mmol) were added to a nitrogen purged flask containing tert-butyl [(1S,2R)-2-({5-[(4-chloro-6-methylpyridin-2-yl)amino]-6-cyanopyridin-3-yl}amino)cyclohexyl]carbamate (PrepEx 1.7) (50 mg, 0.11 mmol). The flask was purged and flushed with nitrogen, and then PdCl2(dPPf)-CH2Cl2 (9 mg, 0.01 mmol) was added. The flask was purged with nitrogen, sealed, and heated to 90° C. for 2 hours. The reaction mixture was cooled to room temperature, diluted with 10% aqueous sodium bicarbonate (10 mL) and extracted with ethyl acetate (10 mL). The organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-50% ethyl acetate/hexanes, linear gradient) to afford tert-butyl (1S,2R)-2-(6-cyano-5-(6-methyl-4-phenylpyridin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate. MS ESI calc'd. for C29H35N6O2 [M+H]+ 499. found 499.

reactant | phenylboronic acid | 0.22 mmol, 27 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate tribasic | 0.33 mmol, 70 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl [(1S,2R)-2-({5-[(4-chloro-6-methylpyridin-2-yl)amino]-6-cyanopyridin-3-yl}amino)cyclohexyl]carbamate | 0.11 mmol, 50 mg | ClC1=CC(=NC(=C1)C)NC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C23H29ClN6O2
catalyst | PdCl2(dPPf) CH2Cl2 | 0.01 mmol, 9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe].C(Cl)Cl
solvent | Dioxane | 1.1 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (1S,2R)-2-(6-cyano-5-(6-methyl-4-phenylpyridin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C1=CC=CC=C1)C | C29H34N6O2
